US04578439
B. Preparation of Styryl Pyridine Cyanate
A portion of the reaction product of a 1 to 2 mole ratio of 2,4,6-trimethyl pyridine and p-hydroxy benzaldehyde (7.30 grams, 0.0443 moles of hydroxyl groups) from 1-A above and acetone (150 grams) were added to a 1-liter glass resin kettle and maintained under a nitrogen atmosphere. Stirring and cooling were both started and when the temperature of the slurry reached 0° C., cyanogen bromide was added (4.93 grams, 0.0466 mole). After five minutes (300 s), triethylamine (4.51 grams, 0.0466 mole) was added dropwise over a four minute (240 s) period and so as to maintain the reaction temperature between 0° and 4° C. The reaction was allowed to progress for an additional 30 minutes (1800 s) between reaction temperatures of -1° to 5° C. After this time, the reaction slurry was filtered. The recovered filtrate was added to 750 milliliters of deionized water producing a voluminous pale white colored precipitate. The precipitate was recovered by filtration, washed with 100 milliliters of deionized water and then dried under vacuum at 25° C. to a constant weight of 2.2 grams. The unreacted trimethyl pyridine and p-hydroxy benzaldehyde adduct as well as triethylamine hydrochloride were recovered from the filter (5.2 grams), as a pale white colored powder. Infrared spectrophotometric analysis of a potassium bromide pellet of the product revealed the presence of cyanate group absorbance (2225 cm-1 and 2260 cm-1) accompanied by a substantial absence of a hydroxy group absorbance (3300 cm-1). As expected, trans-unsaturation absorbance (970 cm-1) and aromatic carbon-oxygen absorbance (1250 cm-1) remained.

reactant | 2,4,6-trimethyl pyridine | CC1=NC(=CC(=C1)C)C | C8H11N
reactant | cyanogen bromide | N#CBr | CBrN
reactant | triethylamine | 0.0466 mole, 4.51 grams | C(C)N(CC)CC | C6H15N
reactant | acetone | 150 grams | CC(=O)C | C3H6O
product | Styryl Pyridine Cyanate | [O-]C#N.C(=CC1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C13H11N.CHNO/c1-2-6-12(7-3-1)9-10-13-8-4-5-11-14-13;2-1-3/h1-11H;3H/p-1
